US04394515
3-Cyano-10,11-dihydro-11-oxodibenzo[b,f]thiepin-5-oxide
1.63 G. 3-cyano-10,11-dihydro-11-oxodibenzo[b,f]thiepin is dissolved in 100 cc. methylene chloride and 1.12 g. m-chloroperbenzoic acid is added and the solution stirred for one hour at room temperature. The reaction mixture is diluted with methylene chloride, excess powdered calcium hydroxide is added, and the mixture stirred for five minutes and filtered through celite. The organic filtrate is evaporated to dryness and the residue chromatographed on silica gel and eluted with a 1:1 mixture of benzene: chloroform to yield 937 mg. (54%) of the desired pure sulfoxide, m.p. 219°-221° C.

reactant | 3-cyano-10,11-dihydro-11-oxodibenzo[b,f]thiepin | C(#N)C=1C=CC2=C(SC3=C(CC2=O)C=CC=C3)C1 | C15H9NOS
reactant | m-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | calcium hydroxide | [OH-].[Ca+2].[OH-]
product | 3-Cyano-10,11-dihydro-11-oxodibenzo[b,f]thiepin-5-oxide | C(#N)C=1C=CC2=C(S(C3=C(CC2=O)C=CC=C3)=O)C1 | C15H9NO2S
